US04548944
2-Guanidino-4-(3-methylamino-phenyl)-thiazole
A mixture of 20 gm of 3-methylamino phenacyl bromide hydrobromide, 7.65 gm of amidinothiourea and 100 ml of ethanol was refluxed for 4 hours, and then cooled to room temperature. The dihydrobromide which separated out was filtered off, dissolved in water, and the solution was made alkaline with 10% sodium hydroxide. The free base was collected and dried, yielding 11.5 gm of the title compound, m.p. 198°-200° C.

reactant | 3-methylamino phenacyl bromide hydrobromide | 20 gm | Br.CNC=1C=C(C(CBr)=O)C=CC1
reactant | amidinothiourea | 7.65 gm | C(N)(=N)NC(=S)N | C2H6N4S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Guanidino-4-(3-methylamino-phenyl)-thiazole | 11.5 gm | N(C(=N)N)C=1SC=C(N1)C1=CC(=CC=C1)NC | C11H13N5S
